US07186716B2
Aluminum chloride (1.4 g, 10.5 mmol) was added to a mixture of 3-(2,6-dichloro-phenyl)-1H-pyrrole (2 g, prepared according to JOC, 62, 1997, 2650) and 2-chloronicotinoyl chloride (1.8 g, 10.5 mmol) in DCM (55 mL) at 0° C. The mixture was stirred at 0° C. for 30 mins and at room temperature for 1.5 hours. The reaction was diluted with ethyl acetate and washed with brine, 2N NaOH, brine, dried and concentrated. The residue was purified on silica gel column to give 160 mg of (2-chloro-pyridin-3-yl)-[3-(2,6-dichloro-phenyl)-1H-pyrrol-2-yl]-methanone.

reactant | Aluminum chloride | 10.5 mmol, 1.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-(2,6-dichloro-phenyl)-1H-pyrrole | 2 g | ClC1=C(C(=CC=C1)Cl)C1=CNC=C1 | C10H7Cl2N
reactant | 2-chloronicotinoyl chloride | 10.5 mmol, 1.8 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
solvent | DCM | 55 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-chloro-pyridin-3-yl)-[3-(2,6-dichloro-phenyl)-1H-pyrrol-2-yl]-methanone | 160 mg | ClC1=NC=CC=C1C(=O)C=1NC=CC1C1=C(C=CC=C1Cl)Cl | C16H9Cl3N2O
